US07960569B2
In a 100 mL round bottom flask was charged N-ethyl-2-methyl-2-(4-nitrophenyl)propan-1-amine (1.50 g, 6.75 mmol), anhydrous acetonitrile (22 mL), ethyl iodide (1.16 mL, 7.43 mmol), and potassium carbonate (1.87 g, 13.5 mmol). The reaction was brought to reflux for 4 h. The reaction mixture was filtered and concentrated in vacuo. The residue was diluted with water and ethyl acetate and layers were separated. The organic layer was washed with once each with water, and then with brine, dried over sodium sulfate, filtered and concentrated in vacuo to give N,N-diethyl-2-methyl-2-(4-nitrophenyl)propan-1-amine (1.45 g, 86.1%). LC/MS (ESI+) 251 (M+H)+.

reactant | N-ethyl-2-methyl-2-(4-nitrophenyl)propan-1-amine | 6.75 mmol, 1.50 g | C(C)NCC(C)(C1=CC=C(C=C1)[N+](=O)[O-])C | C12H18N2O2
reactant | ethyl iodide | 7.43 mmol, 1.16 mL | C(C)I | C2H5I
reactant | potassium carbonate | 13.5 mmol, 1.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 22 mL | C(C)#N | C2H3N
product | N,N-diethyl-2-methyl-2-(4-nitrophenyl)propan-1-amine | 1.45 g, 86.1% | C(C)N(CC(C)(C1=CC=C(C=C1)[N+](=O)[O-])C)CC | C14H22N2O2
